US08124606B2
(S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one (150 mg, 0.643 mmol), 3-methoxy-4-(piperazin-1-yl)benzonitrile hydrochloride (163 mg, 0.643 mmol), (cyanomethyl)trimethylphosphonium iodide (250 mg, 1.029 mmol) and N,N-diisopropylethylamine (562 μl, 3.22 mmol) were suspended in Propiononitrile (Volume: 1931 μl) and heated in a closed vial at 100° C. for 2 h. The reaction mixture became a dark brown solution. It was diluted with MeCN (4 mL) and concentrated in vacuo to about 3 mL. The resulting precipitate was filtered, recrystallized from MeCN (5 mL) and dried in vacuum to afford (S)-3-methoxy-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzonitrile (125 mg, 0.289 mmol, 44.9% yield) as an off-white solid. 1H NMR (DMSO-d6) δ 10.48 (s, 1H), 7.65 (d, J=2.0 Hz, 1H), 7.30-7.36 (m, 2H), 6.93-6.98 (m, 2H), 4.50 (d, J=12.9 Hz, 1H), 3.79-3.87 (m, 4H), 3.34-3.40 (m, 2H), 3.07 (br. s., 4H), 2.60 (td, J=12.7, 2.7 Hz, 1H), 2.47 (br. s., 4H), 2.02 (br. s., 1H), 1.85 (d, J=12.1 Hz, 1H), 1.64 (d, J=12.4 Hz, 1H), 1.32-1.57 (m, 3H); [M+H] calc'd for C24H28N6O2, 433; found, 433.

reactant | (S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 0.643 mmol, 150 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C12H15N3O2
reactant | 3-methoxy-4-(piperazin-1-yl)benzonitrile hydrochloride | 0.643 mmol, 163 mg | Cl.COC=1C=C(C#N)C=CC1N1CCNCC1
reactant | (cyanomethyl)trimethylphosphonium iodide | 1.029 mmol, 250 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N,N-diisopropylethylamine | 3.22 mmol, 562 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | Propiononitrile | 1931 μl | C(CC)#N | C3H5N
solvent | MeCN | 4 mL | CC#N | C2H3N
product | (S)-3-methoxy-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzonitrile | 0.289 mmol, 125 mg, 44.9% yield | COC=1C=C(C#N)C=CC1N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C24H28N6O2
